US03966762
A suspension of 5-amino-10,11-dihydro-5H-dibenz[b,f]azepine hydrochloride (5.0g.) and 5-(4-phenyl-1-piperazinyl)-2-pentanone monohydrate monohydrochloride (6.2g.) in absolute alcohol (100 ml.) was heated on a water bath at 50° to 60°C. in a nitrogen atmosphere for one hour. The mixture was cooled and the solids were collected by filtration, washed with ethyl alcohol, suspended in aqueous methyl alcohol, collected by filtration, washed with water, ethyl alcohol and ether to give 2-[(4-phenyl-1-piperazinyl)-ethyl]-1-methyl-6,7-dihydroindolo-[1,7-ab][1]benzazepine hydrochloride (4.4g.), m.p. 280°-288°C.(dec.). By treatment of this hydrochloride salt in water with an equivalent of ammonium hydroxide and isolation using standard procedures there is obtained the free base 2-[(4-phenyl-1-piperazinyl)-ethyl]-1-methyl-6,7-dihydroindolo[1,7-ab][1]benzazepine.

reactant | 5-amino-10,11-dihydro-5H-dibenz[b,f]azepine hydrochloride | 5.0g | Cl.NN1C2=C(CCC3=C1C=CC=C3)C=CC=C2
reactant | 5-(4-phenyl-1-piperazinyl)-2-pentanone monohydrate monohydrochloride | 6.2g | Cl.O.C1(=CC=CC=C1)N1CCN(CC1)CCCC(C)=O
product | 2-[(4-phenyl-1-piperazinyl)-ethyl]-1-methyl-6,7-dihydroindolo-[1,7-ab][1]benzazepine hydrochloride | 4.4g | Cl.C1(=CC=CC=C1)N1CCN(CC1)CCC1=C(N2C3=C(CCC4=C2C=CC=C4)C=CC=C13)C | InChI=1S/C29H31N3.ClH/c1-22-26(16-17-30-18-20-31(21-19-30)25-10-3-2-4-11-25)27-12-7-9-24-15-14-23-8-5-6-13-28(23)32(22)29(24)27;/h2-13H,14-21H2,1H3;1H
